### PR TITLE
[Merged by Bors] - feat: (Data.Matroid) basic matroid theory

### PR DESCRIPTION
**Pull request by apnelson1**
This PR is the first in a series that are intended to add matroid theory to mathlib. The file `Data.Matroid.Basic` contains the definition of (possibly infinite) matroids, API relating bases, independent/dependent sets and bases of sets, and some simple typeclasses related to finiteness/nonemptiness of matroids. We also define a tactic whose job is to prove that a set is contained in the ground set of a matroid (using aesop); it is imperfect, but does an ok job. 
 
Alternative axiomatizations, duality, minors, rank, circuits, closure, flats, etc etc are all ready to go, and will be added in a sequence of future PRs. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,884 @@
...
+[1] The standard text on matroid theory
+[J. G. Oxley, Matroid Theory, Oxford University Press, New York, 2011.]
+
+[2] The robust axiomatic definition of infinite matroids
+[H. Bruhn, R. Diestel, M. Kriesell, R. Pendavingh, P. Wollan, Axioms for infinite matroids,
+  Adv. Math 239 (2013), 18-46]
+
+[3] Equicardinality of matroid bases is independent of ZFC.
+[N. Bowler, S. Geschke, Self-dual uniform matroids on infinite sets,
+  Proc. Amer. Math. Soc. 144 (2016), 459-471]
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:145]: Please add these references to our bib file: `docs/references.bib`

File: Mathlib/Data/Matroid/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,884 @@
...
+  with minimal fuss (using default values).
+  This works fairly well, but there is room for improvement.
+
+  A related decision is to not have matroids themselves be a typeclass.
+  This would make things be notationally simpler
+  (having `Base` in the presence of `[Matroid α]` rather than `M.Base` for a term `M : Matroid α`)
+  but is again just too awkward when one has multiple matroids on the same type.
+  In fact, in regular written mathematics,
+  it is normal to explicitly indicate which matroid something is happening in,
+  so our notation mirrors common practice.
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:131]: Thanks for this excellent documentation!

File: Mathlib/Data/Matroid/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,884 @@
...
+namespace Matroid
+
+variable {α : Type _} {M : Matroid α}
+
+attribute [pp_dot] Base
+
+/-- We write `M.E` for the ground set of a matroid `M`-/
+@[pp_dot] def E (M : Matroid α) : Set α := M.ground
+
+@[simp] theorem ground_eq_E (M : Matroid α) : M.ground = M.E := rfl
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:190]: What do you think of using `E` everywhere, and dropping `.ground` altogether? What about the names? Atm, it seems that statements below use `ground` in the name, but `E` in the actual Lean expression.

File: Mathlib/Data/Matroid/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,884 @@
...
+/-- Typeclass for a matroid having nonempty ground set. Just a wrapper for `M.E.Nonempty`-/
+class Nonempty (M : Matroid α) : Prop where
+  /-- The ground set is nonempty -/
+  (ground_nonempty : M.E.Nonempty)
+
+theorem ground_nonempty (M : Matroid α) [Nonempty M] : M.E.Nonempty :=
+  Nonempty.ground_nonempty
+
+theorem ground_finite (M : Matroid α) [Finite M] : M.E.Finite :=
+  ‹M.Finite›.ground_finite
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:206]: I think that you can make these instances in Lean 4: loops in the typeclass hierarchy are no longer a problem.

File: Mathlib/Data/Matroid/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,884 @@
...
+
+theorem rkPos_iff_empty_not_base : M.RkPos ↔ ¬M.Base ∅ :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
+
+section exchange
+
+variable {Base : Set α → Prop} (exch : ExchangeProperty Base)
+
+/-- A family of sets with the exchange property is an antichain. -/
+theorem antichain_of_exch (hB : Base B) (hB' : Base B') (h : B ⊆ B') : B = B' :=
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:240]: Does it make sense to put this in the `ExchangeProperty` namespace? Something like
```suggestion
theorem ExchangeProperty.antichain (hB : Base B) (hB' : Base B') (h : B ⊆ B') : B = B' :=
```
Then you can use this with dot-notation as `exch.antichain hB hB' h`.

File: Mathlib/Data/Matroid/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,884 @@
...
+  rw [insert_diff_of_mem _ hf.1, diff_diff_comm, ←union_singleton, ←diff_diff, diff_diff_right,
+    inter_singleton_eq_empty.mpr he.2, union_empty] at hencard
+
+  rw [←encard_diff_singleton_add_one he, ←encard_diff_singleton_add_one hf]
+  exact add_le_add_right hencard 1
+termination_by _ => (B₂ \ B₁).encard
+
+/-- For any two sets `B₁,B₂` in a family with the exchange property, the differences `B₁ \ B₂` and
+  `B₂ \ B₁` have the same `ℕ∞`-cardinality. -/
+theorem encard_diff_eq_of_exch (hB₁ : Base B₁) (hB₂ : Base B₂) :
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:266]: Idem dito

File: Mathlib/Data/Matroid/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,884 @@
...
+    (B₁ \ B₂).encard = (B₂ \ B₁).encard :=
+(encard_diff_le_aux exch hB₁ hB₂).antisymm (encard_diff_le_aux exch hB₂ hB₁)
+
+/-- Any two sets `B₁,B₂` in a family with the exchange property have the same `ℕ∞`-cardinality. -/
+theorem encard_base_eq_of_exch (hB₁ : Base B₁) (hB₂ : Base B₂) : B₁.encard = B₂.encard := by
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:271]: Idem dito

**Review by jcommelin — COMMENTED** [review]
Congrats on PRing this!

File: Mathlib/Data/Matroid/Basic.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Basic.lean:190]: I would be fine with having `E` as the name of the structure field. But it feels a bit wrong to use `E` in lemma names; one talks about the 'ground set' of a matroid M, writing E(M). It's not referrred to as an 'E-set' or anything like that. IMO, using `M.ground` in place of `M.E` in calculations would add a huge number of characters to everything and make simple things look more complicated. If things were to change, I would prefer the change of replacing 'ground' with 'E' everywhere. How strongly do you feel about this?

File: Mathlib/Data/Matroid/Basic.lean (hunk 4 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Basic.lean:206]: Is it normal to have `Set.Finite` terms as instances?

Comment (jcommelin) [reply Mathlib/Data/Matroid/Basic.lean:202]: Ooh, sorry. I forgot that this was about `Set` instead of about types. So your version is correct.

File: Mathlib/Data/Matroid/Basic.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Data/Matroid/Basic.lean:186]: I think your arguments make sense. In that case, I suggest using `E` everywhere, even in the definition of matroids, but using `ground` in names. Your arguments should also end up in the documentation.

**Review by dupuisf — COMMENTED** [review]
Thanks a lot, this is great work! I'm happy to merge this after the few cosmetic issues are fixed, unless @jcommelin wants to make another pass first.

**Comment by apnelson1** [comment]
@dupuisf @jcommelin Thanks for looking at this and sorry I took so long to address some very minor issues! I hope it's ready to go now.

**Comment by kbuzzard** [comment]
Should `lakefile.olean` be being committed here? If not, should it be in `.gitignore`?

**Comment by apnelson1** [comment]
> Should `lakefile.olean` be being committed here? If not, should it be in `.gitignore`?

You're probably right - I'm bad at GitHub and couldn't see an easy way to revert just that file being committed.

**Comment by kmill** [comment]
@apnelson1 I noticed this PR was saying that you'd edited something like 3800 files, so I just tried to fix your last few commits. I did a force push in the process -- I *think* all you have to do locally is `git fetch` followed by `git reset --hard origin/matroid`, assuming you have no local changes you want to preserve. Ping me on zulip if you need any help.

**Comment by kmill** [comment]
I just pushed a change to protect `Finite` and `Nonempty` -- I think it's best not to shadow the global `Finite` and `Nonempty`. A side effect is that you write `[M.Finite]` (or `[Matroid.Finite M]`) rather than `[Finite M]`. (I also made some changes to get this to compile on the most recent mathlib.)

I've looked through everything and nothing jumped out as needing changing, so if you're ok with what I've done, want to merge it?

bors d+

**Comment by apnelson1** [comment]
> I just pushed a change to protect `Finite` and `Nonempty` -- I think it's best not to shadow the global `Finite` and `Nonempty`. A side effect is that you write `[M.Finite]` (or `[Matroid.Finite M]`) rather than `[Finite M]`. (I also made some changes to get this to compile on the most recent mathlib.)
> 
> I've looked through everything and nothing jumped out as needing changing, so if you're ok with what I've done, want to merge it?
> 
> bors d+

Thanks for this, and for sorting out the noisy mess I inadvertently created with my last few commits!

**Comment by apnelson1** [comment]
> ✌️ apnelson1 can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+
